US07834034B2
Benzo[b]thiophene-2,6-dicarboxylic acid dimethyl ester.
To a mixture of methyl 4-formyl-3-nitrobenzoate (6.68 g, 31.9 mmol) and K2CO3 (5.55 g, 38.3 mmol) in DMF (70 mL) was slowly added methyl thioglycolate (2.91 mL, 31.9 mmol). The mixture was stirred at RT for 1 h, then at 50° C. for 24 h. The resultant mixture was poured into H2O/ice and stirred until a precipitate formed. The green solid was filtered. 1H NMR (DMSO-d6) δ 8.72 (s, 1H), 8.25 (s, 1H), 8.12 (d, J=8.0 Hz), 7.95 (d, J=8.0 Hz), 3.87 (s, 6H). MS (EI): cal'd (MH+) 251.03, exp (MH+) 251.18.

reactant | methyl 4-formyl-3-nitrobenzoate | 31.9 mmol, 6.68 g | C(=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H7NO5
reactant | K2CO3 | 38.3 mmol, 5.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl thioglycolate | 31.9 mmol, 2.91 mL | C(CS)(=O)OC | C3H6O2S
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | Benzo[b]thiophene-2,6-dicarboxylic acid dimethyl ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)C(=O)OC | C12H10O4S
